US09353066B2
NBS (184 mg, 1.032 mmol) and AIBN (15.4 mg, 0.04 mmol) were added to a solution of 3-methyl-5-nitrobiphenyl (200 mg, 0.938 mmol) in carbon tetrachloride (1.88 mL) and then the reaction mixture was heated to 80° C. for 3 hours. Additional AIBN (15.4 mg, 0.04 mmol) was added to the reaction mixture and was heated for additional 1 hour. The mixture was purified directly by silica gel column chromatography (ethyl acetate/hexanes) to yield 3-(bromomethyl)-5-nitrobiphenyl.

reactant | NBS | 1.032 mmol, 184 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.04 mmol, 15.4 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 3-methyl-5-nitrobiphenyl | 0.938 mmol, 200 mg | CC=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H11NO2
reactant | AIBN | 0.04 mmol, 15.4 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 1.88 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(bromomethyl)-5-nitrobiphenyl | BrCC=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H10BrNO2
